US05525632
Step 3: Preparation of (E)-3-(3 -amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile
500 mg of (E)-3-(3-nitro-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile were dissolved in 25 ml of acetic acid, and 5 g of zinc were added thereto and stirred for 30 minutes at room temperature. The reaction liquid was filtered and then concentrated. The concentrated liquid was purified by silica gel column chromatography (ethyl acetate:hexane--1.2 by volume) to obtain 457 mg of the intended compound. The yield was 99%.

reactant | (E)-3-(3-nitro-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile | 500 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC | C19H18N2O6
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 5 g | [Zn] | Zn
product | (E)-3-(3 -amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile | 457 mg, yield was 99% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC | C19H20N2O4
